US04247548
4-Chloro-3-hydroxyisoxazol-5-ylacetic acid
To a solution of 4.3 g (30 mmoles) of 3-hydroxyisoxazol-5-ylacetic acid in 10 ml of N,N-dimethylformamide were added 4.81 g (36 mmole) of N-chlorosuccinimide, with ice-cooling and stirring. The mixture was left to stand at room temperature for 15 hours, after which the N,N-dimethylformamide was distilled off under reduced pressure and ethyl acetate was added. The mixture was then extracted with an aqueous solution of sodium hydrogen carbonate and then the pH of the extract was adjusted to a value below 1.0 by addition of concentrated hydrochloric acid. After drying the solution, the solvent was distilled off and the residue was recrystallized from a 1:5 by volume mixture of ethyl acetate and cyclohexane, to give 3.2 g (60%) of the title compound, melting point 155° C.

reactant | 3-hydroxyisoxazol-5-ylacetic acid | 30 mmoles, 4.3 g | OC1=NOC(=C1)CC(=O)O | C5H5NO4
reactant | N-chlorosuccinimide | 36 mmole, 4.81 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-3-hydroxyisoxazol-5-ylacetic acid | 3.2 g, 60% | ClC=1C(=NOC1CC(=O)O)O | C5H4ClNO4
